US08975254B2
(R)-2-amino-N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propyl)thiazole-4-carboxamide
The title compound was synthesized from (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (380 mg, 1.45 mmol), 2-aminothiazole-4-carboxylic acid (217 mg, 1.5 mmol), HOBt (235 mg, 1.74 mmol), DIPEA (0.303 mL, 1.74 mmol) and EDCI (333 mg, 1.74 mmol) using DCM as solvent using the method of Example 34(d). Yield 92 mg. 1H NMR (400 MHz; CDCl3): δ 1.60 (d, 3H), 3.81 (m, 2H), 4.61 (m, 1H), 4.91 (s, 2H), 6.60 (d, 1H), 7.37 (s, 1H), 7.50 (d, 1H), 7.58 (m, 2H), 7.80 (m, 1H).

reactant | (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 1.45 mmol, 380 mg | NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F | C13H12F2N4
reactant | 2-aminothiazole-4-carboxylic acid | 1.5 mmol, 217 mg | NC=1SC=C(N1)C(=O)O | C4H4N2O2S
reactant | HOBt | 1.74 mmol, 235 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.74 mmol, 0.303 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.74 mmol, 333 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propyl)thiazole-4-carboxamide | NC=1SC=C(N1)C(=O)NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)F | C17H14F2N6OS
